Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Muscle pain
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ year old male with PMH of hypertension who is presenting with 
myalgias and malaise. On ___, he began experiencing diffuse 
myalgias including his extremities as well as some aching 
substernal pain that he says feels similar to his extremities. 
Endorses chills. The aching substernal sensation is not 
exacerbated or alleviated by anything in particular. It is not 
positional. It is nonradiating. It is nonmigratory. He has no 
associated dyspnea or cough. He is also experiencing 
lightheadedness, by which he means that when he stands up he 
feels uneasy. There is no vertiginous component. He states his 
symptoms feel similar to an episode ___ years ago when he was 
diagnosed with the flu.
No recent travel, no sick contacts. He works as a ___.
History obtained using ___ interpreter.
In the ED:
- Initial vital signs: 99.5 ___ 22 99% RA
- Exam:
Nontender abdomen
Fatigued appearing
Tachycardic
- Labs:
Lactate 1.7
BMP and CBC within normal limits
Flu negative
- Studies:
CXR with left lower lobe pneumonia.
- Meds:
CTX 1 gm
Azithromycin 500mg
1L NS
Tylenol ___
Upon arrival to the floor, he states he is feeling weak but does 
not have any other complaints.
ROS: Complete ROS obtained and is otherwise negative
 
Past Medical History:
Hypertension
GERD
Esophageal abnormality
 
Social History:
___
Family History:
Denies illness that he is aware of in his family.
 
Physical Exam:
ADMISSION EXAM
VITALS: T 98.4 BP 136/91 HR 99 RR 18 O2 sat 93 Ra
GENERAL: Laying in bed, NAD
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection. MMM.
NECK: Thyroid is normal in size and texture, no nodules. No 
cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: left lower lobe crackles. No wheezes or rhonchi. No 
increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash.

DISCHARGE EXAM
Temp 98.2 BP 128/87 HR 86 RR 16 95%Ra 
GENERAL: Laying in bed, NAD
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection. MMM.
NECK: Thyroid is normal in size and texture, no nodules. No 
cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: left lower lobe fine crackles. No wheezes or rhonchi. No 
increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
 
Pertinent Results:
ADMISSION LABS
___ 07:35PM BLOOD WBC-8.2 RBC-5.92 Hgb-16.7 Hct-50.8 MCV-86 
MCH-28.2 MCHC-32.9 RDW-13.5 RDWSD-42.1 Plt ___

NOTABLE LABS
___ 07:35PM BLOOD proBNP-37
___ 07:35PM BLOOD cTropnT-<0.01
___ 07:43PM BLOOD Lactate-1.7

DISCHARGE LABS
___ 04:32AM BLOOD WBC-6.8 RBC-5.06 Hgb-14.4 Hct-42.8 MCV-85 
MCH-28.5 MCHC-33.6 RDW-13.7 RDWSD-42.5 Plt ___
___ 04:32AM BLOOD Glucose-96 UreaN-9 Creat-0.7 Na-142 
K-3.4* Cl-104 HCO3-23 AnGap-15

MICROBIOLOGY
___ 8:35 pm BLOOD CULTURE      2 OF 2. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 8:34 pm
      BLOOD CULTURE      #1. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 7:35 pm URINE

   URINE CULTURE (Pending): 

IMAGING & PROCEDURES
CXR ___
  
There is a left lower lobe opacity, compatible with pneumonia.  
Cardiomediastinal silhouette is stable.  No pleural effusion or 
pneumothorax. 
  
IMPRESSION:  
  
Left lower lobe pneumonia. 

 
Brief Hospital Course:
SUMMARY
===============
Mr. ___ is a ___ man with hypertension who presents with 
myalgias and malaise found to have a lower left lobe pneumonia. 

ACUTE ISSUES
===============
#Pneumonia
Mr. ___ presented with 1 day of myalgias and malaise. On 
arrival to the ED he was noted to be mildly tachycardic but was 
otherwise stable. A flu swab was negative. A chest x ray showed 
a left lower lobe infiltrate. He was given ceftriaxone and 
azithromycin on ___ and transitioned to levofloxacin on ___ and 
should continue a 5 day course to end on ___. 

CHRONIC ISSUES
===============
#HTN
Held home triamterene-Hctz due to subjective light headedness on 
day of admission. Instructed patient to restart medication on 
___

Transitional Issues
====================
- Patient is a current everyday smoker. Encouraged patient to 
stop smoking. 
- Antibiotics: Levofloxacin 750 mg for 5 day course (D1 ___ | 
projected end date ___
- Holding home triamterene-Hctz due to subjective light 
headedness on day of admission. Instructed patient to restart 
medication on ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 

 
Discharge Medications:
1.  Levofloxacin 750 mg PO DAILY Duration: 3 Doses 
Start date: ___ 
RX *levofloxacin 750 mg 1 tablet(s) by mouth Daily Disp #*3 
Tablet Refills:*0 
2.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
===================
Pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
-  You were having muscle pain and flu-like symptoms. 

What did you receive in the hospital?  
-  You had a flu test done which was negative. You had a chest 
x-ray that showed a pneumonia. We started you on antibiotics to 
treat the pneumonia. 

What should you do once you leave the hospital?  
- You should take your medicines as directed. 
- You should follow up with your primary care doctor in the next 
week. 
- You should quit smoking because this increases your risk of 
infection. 

We wish you the best!  

Your ___ Care Team  

 
Followup Instructions:
___